US05859036
O-Ethyl p-tolylthiocarbamate
2.5 g of p-toluidine and 5 g of bis(ethoxythiocarbonyl) sulphide are dissolved in 50 ml of ethanol and this mixture is stirred at ambient temperature for 24 h. The ethanol is evaporated off and the residue is taken up in pentane giving a white solid.

reactant | p-toluidine | 2.5 g | NC1=CC=C(C=C1)C | C7H9N
reactant | bis(ethoxythiocarbonyl) sulphide | 5 g | C(C)OC(=S)SC(=S)OCC | C6H10O2S3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | O-Ethyl p-tolylthiocarbamate | C1(=CC=C(C=C1)NC(OCC)=S)C | C10H13NOS
